US04368150
(1) Synthesis of 2,3,5-trimethylanisole
In 100 ml of DMSO were dissolved 10 g of 2,3,5-trimethylphenol and 10.4 ml of methyl iodide. Under ice-cooling, 5.6 g of 60% sodium hydride in oil was added, and the mixture was stirred at room temperature for 10 hours. After addition of water, the extraction with ether was carried out. The ether layer was washed with water and dried over anhydrous sodium sulfate. Removal of the solvent by distillation leaves the oily substance.

reactant | 2,3,5-trimethylphenol | 10 g | CC1=C(C=C(C=C1C)C)O | C9H12O
reactant | methyl iodide | 10.4 ml | CI | CH3I
reactant | sodium hydride | 5.6 g | [H-].[Na+]
reactant | water | O | H2O
solvent | DMSO | 100 ml | CS(=O)C | C2H6OS
product | 2,3,5-trimethylanisole | CC1=C(C=C(C=C1C)C)OC | C10H14O
